US06653334B1
Synthesis of Ethyl 2-(3-Formylphenoxy)-2-methylpropionate
3-Hydroxybenzaldehyde (30.0 g, 0.246 mol) was dissolved in dimethylformamide (20 mL). Subsequently, potassium carbonate (51.00 g, 0.369 mol), and then ethyl 2-bromoisobutyrate (144.00 g, 0.737 mol) were added thereto, and the resultant mixture was stirred overnight at 80° C. The temperature of the reaction mixture was returned to room temperature. Ethyl acetate was added. Washing was performed sequentially with water and saturated brine, followed by drying over sodium sulfate. The reaction mixture was subjected to filtration, concentration under reduced pressure, and purification by silica gel column chromatography (n-hexane/ethyl acetate=5/1), whereby a colorless oil was obtained (57.70 g, 0.244 mol, 99.3%).

reactant | 3-Hydroxybenzaldehyde | 0.246 mol, 30.0 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | potassium carbonate | 0.369 mol, 51.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromoisobutyrate | 0.737 mol, 144.00 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Ethyl 2-(3-Formylphenoxy)-2-methylpropionate | C(=O)C=1C=C(OC(C(=O)OCC)(C)C)C=CC1 | C13H16O4
